US07439261B2
4′-(4-Isopropyl-5-oxo-3-pentanoyl-oxazolidin-2-yl)biphenyl-2-carbonitrile; (intermediate (II))
2.0 g of NaOH powder (49.5 mmoles) and L-valine 6.5 g (55.5 mmoles) are reacted in 50 ml of dry methanol. The mixture is stirred at 25° C. for 10 minutes, then evaporated in rotary evaporator, added with 8.7 g (42.2 mmoles) of 4′-formyl biphenyl-2-carbonitrile and 50 ml of isopropanol and left under stirring for 1 hour. The solution is concentrated at 60° C. under reduced pressure to obtain a solid or oily residue, which is kept at 50° C. under reduced pressure for 3 hours to remove the water formed during the reaction. A solid is obtained in molar yield equivalent to 90% (12 g, 38.0 mmoles). The solid is suspended in 80 ml of dry dichloromethane and heated to reflux under mild nitrogen stream. 2.1 g of triethylamine (20.8 mmoles) and 7.9 g of valeryl chloride (65.7 mmoles) are added to the mixture, that is refluxed for 2 hours, then cooled to 25° C. The organic phase is washed three times with 50 ml of water and concentrated under reduced pressure at 25-30° C., to obtain an oily residue. 50 ml of ethyl acetate are added and the organic phase is washed with a weakly basic NaOH solution, then with water to neutrality. The organic phase is washed with a sodium bisulfite solution, then with water, dried over sodium sulfate, filtered and evaporated under reduced pressure. The oily residue is taken up with isopropanol from which the title product crystallizes (8.2 g, 21.1 mmoles; molar yield: 50%).

reactant | NaOH | 49.5 mmoles, 2.0 g | [OH-].[Na+]
reactant | L-valine | 55.5 mmoles, 6.5 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | 4′-formyl biphenyl-2-carbonitrile | 42.2 mmoles, 8.7 g | C(=O)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C14H9NO
reactant | triethylamine | 20.8 mmoles, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | valeryl chloride | 65.7 mmoles, 7.9 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | methanol | 50 ml | CO | CH4O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4′-(4-Isopropyl-5-oxo-3-pentanoyl-oxazolidin-2-yl)biphenyl-2-carbonitrile | yield: 50% | C(C)(C)C1N(C(OC1=O)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N)C(CCCC)=O | C24H26N2O3
